US04904669
A mixture of 17.62 g (0.1 mole) of 3-amino-4-mercapto-quinoline, 150 ml of 100% formic acid and 1.5 g of sodium pyrosulfite is refluxed for 3 hours. The reaction mixture is cooled, diluted with a mixture of 800 ml of water and 40 ml of concentrated hydrochloric acid, made alkaline to pH 10 by adding a sodium hydroxide solution and extracted three times with 200 ml of benzene each. The benzene solution is evaporated. Thus 15.0 g of thiazolo[4,5-c]quinoline are obtained, m.p.: 114°-116° C., yield 80%.

reactant | 3-amino-4-mercapto-quinoline | 0.1 mole, 17.62 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | formic acid | 150 ml | C(=O)O | CH2O2
reactant | sodium pyrosulfite | 1.5 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 800 ml | O | H2O
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | thiazolo[4,5-c]quinoline | 15.0 g, yield 80% | S1C=NC=2C=NC=3C=CC=CC3C21 | C10H6N2S
